US06897227B2
Methyl (4-chlorosulfonyl-3,5-dimethylphenoxy)acetate (Intermediate A1)
Methyl (3,5-dimethylphenoxy)acetate (19.4 g, 0.10 mol) was added dropwise over ca. 30 min to rapidly stirred chlorosulfonic acid (58 g, 0.50 mol) that was cooled in a −20° C. bath. After an additional 20 min, the mixture was allowed to slowly warm to room temperature. After 2 hr, the mixture was poured slowly into 400 mL of ice/water. This suspension was extracted with 400 mL of dichloromethane, and the organic layer was washed with water and concentrated. The residue was purified by flash silica gel chromatography (hexanes→dichloromethane) to yield 7.6 g (27%) of the title compound.

reactant | Methyl (3,5-dimethylphenoxy)acetate | 0.10 mol, 19.4 g | CC=1C=C(OCC(=O)OC)C=C(C1)C | C11H14O3
reactant | chlorosulfonic acid | 0.50 mol, 58 g | ClS(=O)(=O)O | ClHO3S
product | Methyl (4-chlorosulfonyl-3,5-dimethylphenoxy)acetate | 7.6 g, 27% | ClS(=O)(=O)C1=C(C=C(OCC(=O)OC)C=C1C)C | C11H13ClO5S
